* c:\users\lenovo\esim-workspace\oscillator1\oscillator1.cir

* Load OSDI model interface and PDK model files


.lib /home/krish/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.control
pre_osdi /home/krish/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
.endc
* Transistor-level netlist
xm5 net-_m10-pad4_ net-_m1-pad1_ net-_m5-pad3_ net-_m10-pad4_ sg13_lv_pmos W=2u L=180n M=1
xm9 net-_m10-pad4_ net-_m1-pad1_ net-_m10-pad1_ net-_m10-pad4_ sg13_lv_pmos W=2u L=180n M=1
xm13 net-_m10-pad4_ net-_m1-pad1_ net-_m13-pad3_ net-_m10-pad4_ sg13_lv_pmos W=2u L=180n M=1
xm17 net-_m10-pad4_ net-_m1-pad1_ net-_m17-pad3_ net-_m10-pad4_ sg13_lv_pmos W=2u L=180n M=1
xm21 net-_m10-pad4_ net-_m1-pad1_ net-_m21-pad3_ net-_m10-pad4_ sg13_lv_pmos W=2u L=180n M=1
xm6 net-_m5-pad3_ out net-_m10-pad2_ net-_m10-pad4_ sg13_lv_pmos W=1u L=180n M=1
xm10 net-_m10-pad1_ net-_m10-pad2_ net-_m10-pad3_ net-_m10-pad4_ sg13_lv_pmos W=1u L=180n M=1
xm14 net-_m13-pad3_ net-_m10-pad3_ net-_m11-pad1_ net-_m10-pad4_ sg13_lv_pmos W=1u L=180n M=1
xm18 net-_m17-pad3_ net-_m11-pad1_ net-_m15-pad1_ net-_m10-pad4_ sg13_lv_pmos W=1u L=180n M=1
xm22 net-_m21-pad3_ net-_m15-pad1_ out net-_m10-pad4_ sg13_lv_pmos W=1u L=180n M=1
xm2 net-_m10-pad4_ net-_m1-pad1_ net-_m1-pad1_ net-_m10-pad4_ sg13_lv_pmos W=2u L=180n M=1
xm3 net-_m10-pad2_ out net-_m3-pad3_ gnd sg13_lv_nmos W=1u L=180n M=1
xm7 net-_m10-pad3_ net-_m10-pad2_ net-_m7-pad3_ gnd sg13_lv_nmos W=1u L=180n M=1
xm11 net-_m11-pad1_ net-_m10-pad3_ net-_m11-pad3_ gnd sg13_lv_nmos W=1u L=180n M=1
xm15 net-_m15-pad1_ net-_m11-pad1_ net-_m15-pad3_ gnd sg13_lv_nmos W=1u L=180n M=1
xm19 out net-_m15-pad1_ net-_m19-pad3_ gnd sg13_lv_nmos W=1u L=180n M=1
xm4 net-_m3-pad3_ net-_m1-pad2_ gnd gnd sg13_lv_nmos W=2u L=180n M=1
xm8 net-_m7-pad3_ net-_m1-pad2_ gnd gnd sg13_lv_nmos W=2u L=180n M=1
xm12 net-_m11-pad3_ net-_m1-pad2_ gnd gnd sg13_lv_nmos W=2u L=180n M=1
xm16 net-_m15-pad3_ net-_m1-pad2_ gnd gnd sg13_lv_nmos W=2u L=180n M=1
xm20 net-_m19-pad3_ net-_m1-pad2_ gnd gnd sg13_lv_nmos W=2u L=180n M=1
xm1 net-_m1-pad1_ net-_m1-pad2_ gnd gnd sg13_lv_nmos W=2u L=180n M=1

* Power supplies
v1 net-_m1-pad2_ gnd  dc 1
v2 net-_m10-pad4_ gnd  dc 1.8

* Initial condition to start oscillation
.ic v(out)=0.1

.tran 1e-12 20e-9

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
.endc
.end
