* c:\users\lenovo\esim-workspace\oscillator1\oscillator1.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m5 net-_m10-pad4_ net-_m1-pad1_ net-_m5-pad3_ net-_m10-pad4_ CMOSP W=2u L=180n M=1
m9 net-_m10-pad4_ net-_m1-pad1_ net-_m10-pad1_ net-_m10-pad4_ CMOSP W=2u L=180n M=1
m13 net-_m10-pad4_ net-_m1-pad1_ net-_m13-pad3_ net-_m10-pad4_ CMOSP W=2u L=180n M=1
m17 net-_m10-pad4_ net-_m1-pad1_ net-_m17-pad3_ net-_m10-pad4_ CMOSP W=2u L=180n M=1
m21 net-_m10-pad4_ net-_m1-pad1_ net-_m21-pad3_ net-_m10-pad4_ CMOSP W=2u L=180n M=1
m6 net-_m5-pad3_ out net-_m10-pad2_ net-_m10-pad4_ CMOSP W=1u L=180n M=1
m10 net-_m10-pad1_ net-_m10-pad2_ net-_m10-pad3_ net-_m10-pad4_ CMOSP W=1u L=180n M=1
m14 net-_m13-pad3_ net-_m10-pad3_ net-_m11-pad1_ net-_m10-pad4_ CMOSP W=1u L=180n M=1
m18 net-_m17-pad3_ net-_m11-pad1_ net-_m15-pad1_ net-_m10-pad4_ CMOSP W=1u L=180n M=1
m22 net-_m21-pad3_ net-_m15-pad1_ out net-_m10-pad4_ CMOSP W=1u L=180n M=1
m2 net-_m10-pad4_ net-_m1-pad1_ net-_m1-pad1_ net-_m10-pad4_ CMOSP W=2u L=180n M=1
m3 net-_m10-pad2_ out net-_m3-pad3_ gnd CMOSN W=1u L=180n M=1
m7 net-_m10-pad3_ net-_m10-pad2_ net-_m7-pad3_ gnd CMOSN W=1u L=180n M=1
m11 net-_m11-pad1_ net-_m10-pad3_ net-_m11-pad3_ gnd CMOSN W=1u L=180n M=1
m15 net-_m15-pad1_ net-_m11-pad1_ net-_m15-pad3_ gnd CMOSN W=1u L=180n M=1
m19 out net-_m15-pad1_ net-_m19-pad3_ gnd CMOSN W=1u L=180n M=1
m4 net-_m3-pad3_ net-_m1-pad2_ gnd gnd CMOSN W=2u L=180n M=1
m8 net-_m7-pad3_ net-_m1-pad2_ gnd gnd CMOSN W=2u L=180n M=1
m12 net-_m11-pad3_ net-_m1-pad2_ gnd gnd CMOSN W=2u L=180n M=1
m16 net-_m15-pad3_ net-_m1-pad2_ gnd gnd CMOSN W=2u L=180n M=1
m20 net-_m19-pad3_ net-_m1-pad2_ gnd gnd CMOSN W=2u L=180n M=1
m1 net-_m1-pad1_ net-_m1-pad2_ gnd gnd CMOSN W=2u L=180n M=1
v1 net-_m1-pad2_ gnd  dc 1
v2 net-_m10-pad4_ gnd  dc 1.5
* u1  out plot_v1
.tran 0.001e-09 10e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
.endc
.end
